US09163155B2
Synthesis of 4-Morpholino-pyridine-2,6-dicarboxylic acid (Morphodpa)
4-chloro-pyridine-2,6-dicarboxylic acid (0.025 mol, 5.0 g) is slowly added under stirring to a solution of morpholine (0.250 mol, 21.6 g) at room temperature. Care is taken to avoid a too-fast addition leading to local temperature increase. Precipitation of a solid is observed. The reaction mixture is heated at 120° C. for 2 hr. By gradually heating the reaction mixture becomes solid. After cooling at 60° C., H20 (80 ml) is added and the mixture is stirred for 30 min. until the solid is completely dissolved. The solution is then acidified with 2M HCl until pH=1. The formed precipitate is filtered, washed twice H2O and dried overnight at 70° C. (70%)

reactant | 4-chloro-pyridine-2,6-dicarboxylic acid | 0.025 mol, 5.0 g | ClC1=CC(=NC(=C1)C(=O)O)C(=O)O | C7H4ClNO4
reactant | morpholine | 0.250 mol, 21.6 g | N1CCOCC1 | C4H9NO
product | 4-Morpholino-pyridine-2,6-dicarboxylic acid | O1CCN(CC1)C1=CC(=NC(=C1)C(=O)O)C(=O)O | C11H12N2O5
